US07592477B2
Step a) Formation of ethyl oxo{[4-(trifluoromethyl)benzyl][4-(undec-10-enoylamino)-benzyl]amino}acetate
The same procedure as employed in the preparation of Example 15, step d using ethyl{(4-aminobenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate and undec-10-enoyl chloride gave the title compound as a colorless oil (71%). HPLC (Condition A), Rt: 6.7 min (HPLC purity: 99%).

reactant | ethyl{(4-aminobenzyl)[4-(trifluoromethyl)benzyl]amino}(oxo)acetate | C(C)OC(C(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)N)=O | C19H19F3N2O3
reactant | undec-10-enoyl chloride | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
product | ethyl oxo{[4-(trifluoromethyl)benzyl][4-(undec-10-enoylamino)-benzyl]amino}acetate | 71% | O=C(C(=O)OCC)N(CC1=CC=C(C=C1)NC(CCCCCCCCC=C)=O)CC1=CC=C(C=C1)C(F)(F)F | C30H37F3N2O4
